US03985888
Five (5) grams (0.0179 M) of γ-carbamoyl-γ-phenylpimelic acid prepared by the method of Koelsch, J. Org. Chem., 25, 164 (1960), in 100 ml of concentrated sulfuric acid were heated on a steam bath for two hours. The cooled reaction mixture was poured with stirring into crushed ice. The separated solid was washed with sodium bicarbonate solution. Recrystallization from 30 ml of acetone solution (treated with activated charcoal) gave 1.5 grams (34.5%) of 2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione.

reactant | γ-carbamoyl-γ-phenylpimelic acid | 0.0179 M | C(N)(=O)C(CCC(=O)O)(CCC(=O)O)C1=CC=CC=C1 | C14H17NO5
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione | 1.5 grams, 34.5% | N1C(C2(CCC1=O)CCC(C1=CC=CC=C12)=O)=O | C14H13NO3
